US08314138B2
A solution of 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide (0.1 g, 0.33 mmol) in dimethyl sulfoxide (5 mL) was treated with 2-(2-bromo-ethyl)-pyridine (0.089 g, 0.33 mmol) and potassium carbonate (0.140 g, 1.0 mmol), and the reaction mixture was heated to 90° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), and washed with brine (2×50 mL). The organic phase was dried (Na2SO4) and evaporated. The residue, was purified by preparative thin layer chromatography over silica gel eluting with (5% methanol, 95% methylene chloride) to provide 4-methyl-2-[1-(2-pyridin-2-yl-ethyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid benzylamide (56 mg, 43% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=4.0 Hz, 1H), 7.50-7.57 (m, 1H), 7.29-7.42 (m, 5H), 7.21 (s, 1H), 7.12-7.19 (m, 1H), 6.98 (d, J=8.0 Hz, 1H), 6.68 (s, 1H), 6.01 (bs, 1H), 4.62 (d, J=8.0 Hz, 2H), 4.61 (t, J=8.0 Hz, 2H), 3.36 (t, J=8.0 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=404.2; Rt=1.25 min; HRMS (M+H)+=404.15.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide | 0.33 mmol, 0.1 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C15H14N4OS
reactant | 2-(2-bromo-ethyl)-pyridine | 0.33 mmol, 0.089 g | BrCCC1=NC=CC=C1 | C7H8BrN
reactant | potassium carbonate | 1.0 mmol, 0.140 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-[1-(2-pyridin-2-yl-ethyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid benzylamide | 56 mg, 43% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCC1=NC=CC=C1)C | C22H21N5OS
